US09260436B2
2.1 ml of methylmagnesium bromide (a 1 M THF solution) was added to a mixture of 380 mg of 4-chloro-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline, 72 mg of iron(III) acetylacetonate, 8 ml of THF and 0.8 ml of NMP, and the mixture was stirred at room temperature for 1 hour. Ethyl acetate and water were added to the reaction mixture, and the mixture was filtered. The aqueous layer of the filtrate was extracted with ethyl acetate, combined with the organic layer of the filtrate, sequentially washed with 0.5 N hydrochloric acid, water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The mixture was concentrated under reduced pressure, and the resulting residue was applied to a silica gel column chromatography to obtain 123 mg of 2-(2-ethylsulfanylphenyl)-4-methyl-7-trifluoromethylquinazoline (Compound of Present Invention 13).

reactant | methylmagnesium bromide | 2.1 ml | C[Mg]Br
reactant | THF | 1 M | C1CCOC1 | C4H8O
reactant | 4-chloro-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline | 380 mg | ClC1=NC(=NC2=CC(=CC=C12)C(F)(F)F)C1=C(C=CC=C1)SCC | C17H12ClF3N2S
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | NMP | 0.8 ml | CN1CCCC1=O | C5H9NO
catalyst | iron(III) acetylacetonate | 72 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-ethylsulfanylphenyl)-4-methyl-7-trifluoromethylquinazoline | 123 mg | C(C)SC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)C)C(F)(F)F | C18H15F3N2S
